US05403816
4.9 g (18 mmol) of 6-acetylamino-3-benzyloxypicoline aldehyde was added to 100 ml of acetone. 400 ml of an aqueous solution of 4.3 g (27 mmol) of potassium permanganate was added thereto, and the mixture was stirred at room temperature for one hour. Precipitated manganese dioxide was filtered off and washed with 100 ml of hot water. The filtrate was extracted with ethyl acetate, and the aqueous layer was neutralized with citric acid. Precipitated crystals were extracted with chloroform, washed with water, dried and concentrated. The crystals thereby obtained were washed with diisopropyl ether to obtain 6-acetylamino-3-benzyloxy picolinic acid.

reactant | 6-acetylamino-3-benzyloxypicoline aldehyde | 18 mmol, 4.9 g | C(C)(=O)NC1=CC=C(C(=N1)C=O)OCC1=CC=CC=C1 | C15H14N2O3
reactant | potassium permanganate | 27 mmol, 4.3 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 6-acetylamino-3-benzyloxy picolinic acid | yield: 29% | C(C)(=O)NC1=CC=C(C(=N1)C(=O)O)OCC1=CC=CC=C1 | C15H14N2O4
